US07081461B1
n-Butyllithium (24 ml of a 1.6 N solution in hexanes, 38.4 mmol) was added to a stirred solution of 2,4-lutidine (4.28 g, 40 mmol) in tetrahydrofuran (70 ml) at −70° C. under an inert atmosphere. After 1 hour, air was bubbled through (for 1 hour), methanol (50 ml) was added and the reaction allowed to warm to ambient temperature. The reaction mixture was filtered and then evaporated in vacuo. Purification of the crude product by flash chromatography on silica gel, eluting with ethyl acetate, yielded 2-(hydroxymethyl)-4-picoline (700 mg, 14% yield) as a white solid. b) Sodium hydride (150 mg of an 80% dispersion in mineral oil, 5.00 mmol) was added to a stirred solution of 2-(hydroxymethyl)-4-picoline (590 mg, 5.00 mmol) in N-methylpyrrolidine (20 ml) at ambient temperature. 2-Fluoro-5-nitrotoluene (775 mg, 5.00 mmol) was added, the reaction was stirred for 18 hours at ambient temperature and the reaction was poured into water (60 ml). Collection of the yellow solid which precipitated, followed by drying in vacuo, yielded 2-((4-methyl-2-pyridyl)methoxy)-5-nitrotoluene (900 mg, 70% yield) as a yellow solid. c) 5% Platinum on carbon (50 mg) was added to a solution of 2-((4-methyl-2-pyridyl)methoxy)-5-nitrotoluene (750 mg, 2.91 mmol) in ethanol (150 ml) and the solution was stirred for 2 hours at ambient temperature under an atmosphere of hydrogen. Filtration of the reaction mixture, followed by solvent evaporation in vacuo, yielded 3-methyl-4-((4-methyl-2-pyridyl)methoxy)aniline (420 mg, 63% yield) as a yellow gum.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 2,4-lutidine | 40 mmol, 4.28 g | N1=C(C=C(C=C1)C)C | C7H9N
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 2-(hydroxymethyl)-4-picoline | 700 mg, 14% yield | OCC1=NC=CC(=C1)C | C7H9NO
